US07915288B2
A solution of 1-chloro-4-chloromethyl-3-methyl-isoquinoline (150 mg, 0.66 mmol) is added to a mixture of carvacrol (199 mg, 1.33 mmol) and CsCO3 (645 mg, 1.98 mmol) in DMF (8 ml). After stirring overnight at room temperature, water is added and the mixture is extracted with ether. The combined extracts are washed with saturated brine, dried over Na2SO4, and concentrated in vacuo. The residue is chromatographed on silica gel to give 220 mg of 1-chloro-4-(5-isopropyl-2-methyl-phenoxymethyl)-3-methyl-isoquinoline. A mixture of 1-chloro-4-(5-isopropyl-2-methyl-phenoxymethyl)-3-methyl-isoquinoline (220 mg, 0.65 mmol), 5-isopropylindazole-4-boronic acid (173 mg, 0.85 mmol), Pd(PPh3)4 (38 mg, 0.033 mmol), and Na2CO3 (1.3 ml of 2M in H2O) in dioxane (8 ml) The mixture is heated for 18 h at 100° C. After cooling to room temperature, water is added and the resulting mixture is extracted with EtOAc. The combined extracts are dried over Na2SO4 and concentrated in vacuo. The residue is chromatographed on silica gel to give 133 mg of 1-(5-isopropyl-1H-indazol-4-yl)-4-(5-isopropyl-2-methyl-phenoxymethyl)-3-methyl-isoquinoline

reactant | 1-chloro-4-(5-isopropyl-2-methyl-phenoxymethyl)-3-methyl-isoquinoline | 0.65 mmol, 220 mg | ClC1=NC(=C(C2=CC=CC=C12)COC1=C(C=CC(=C1)C(C)C)C)C | C21H22ClNO
reactant | 5-isopropylindazole-4-boronic acid | 0.85 mmol, 173 mg | C(C)(C)C1=C(C=2C=NNC2C=C1)B(O)O | C10H13BN2O2
reactant | Na2CO3 | 2M, 1.3 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.033 mmol, 38 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(5-isopropyl-1H-indazol-4-yl)-4-(5-isopropyl-2-methyl-phenoxymethyl)-3-methyl-isoquinoline | 133 mg | C(C)(C)C=1C(=C2C=NNC2=CC1)C1=NC(=C(C2=CC=CC=C12)COC1=C(C=CC(=C1)C(C)C)C)C | C31H33N3O
